US07317025B2
trans-N-(1-Acetyl-2,3-dihydro-1H-indol-6-yl)-N-(1-benzyl-piperidin-4-yl)-3-phenyl-acrylamide
To a solution of 1-[6-(1-benzyl-piperidin-4-ylamino)-2,3-dihydro-indol-1-yl]-ethanone (250 mg, 0.72 mmol) in CH2Cl2 (10 mL) was added cinnamoyl chloride (160 mg, 0.93 mmol) and triethylamine (TEA, 0.30 mL, 2.2 mmol). The mixture was stirred at 25° C. for 16 h. After concentration, the residue was purified by preparative TLC (PTLC, 20% EtOAc/CH2Cl2) to provide 290 mg (85%) of the desired product. 1H NMR (500 MHz, CDCl3): 8.05 (s, 1H), 7.62 (d, J=15.5 Hz, 1H), 7.32-7.20 (m, 10H), 7.17 (d, J=7.9 Hz, 1H), 6.74 (dd, J=6.8, 1.5 Hz, 1H), 6.15 (d, J=15.5 Hz, 1H), 4.80-4.69 (m, 1H), 4.20-4.09 (m, 3H), 3.51-3.45 (m, 1H), 3.31-3.20 (m, 2H), 2.95-2.82 (m, 2H), 2.23 (s, 3H), 2.19-2.08 (m, 2H), 1.91-1.71 (m, 2H). MS: exact mass calculated for C31H33N3O2, 479.26; m/z found, 480.3 [M+H]+.

reactant | 1-[6-(1-benzyl-piperidin-4-ylamino)-2,3-dihydro-indol-1-yl]-ethanone | 0.72 mmol, 250 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C2CCN(C2=C1)C(C)=O | C22H27N3O
reactant | cinnamoyl chloride | 0.93 mmol, 160 mg | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | triethylamine | 2.2 mmol, 0.30 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | trans-N-(1-Acetyl-2,3-dihydro-1H-indol-6-yl)-N-(1-benzyl-piperidin-4-yl)-3-phenyl-acrylamide | 290 mg, 85% | C(C)(=O)N1CCC2=CC=C(C=C12)N(C(\C=C\C1=CC=CC=C1)=O)C1CCN(CC1)CC1=CC=CC=C1 | C31H33N3O2
